US07786104B2
16.2 N-[6-Chloropyridin-3-yl]-1-[(pyridin-4-yl)methyl]-5-trifluoromethyl-1H-indole-2-carboxamide
The process is carried out according to the method described in example 3.1, using 0.5 g (1.56 mmol) of 5-trifluoromethyl-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylic acid, prepared in step 16.1, and 0.22 g (1.72 mmol) of 2-chloro-5-aminopyridine. 0.5 g of the expected product is isolated by this method, which product is used as it is in the rest of the synthesis.

reactant | 5-trifluoromethyl-1-[(pyridin-4-yl)methyl]-1H-indole-2-carboxylic acid | 1.56 mmol, 0.5 g | FC(C=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)O)(F)F | C16H11F3N2O2
reactant | 2-chloro-5-aminopyridine | 1.72 mmol, 0.22 g | ClC1=NC=C(C=C1)N | C5H5ClN2
product | N-[6-Chloropyridin-3-yl]-1-[(pyridin-4-yl)methyl]-5-trifluoromethyl-1H-indole-2-carboxamide | 0.5 g | ClC1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)C(F)(F)F)CC1=CC=NC=C1 | C21H14ClF3N4O
